US06008243
According to the procedure described in in Example 1(a), a suspension of 3(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-N-(2,2-dimethyl-1(S)-methylcarbamoylpropyl)succinamic acid benzyl ester in EtOH was hydrogenated to provide 3(RS)-(3-biphenyl-4-yl-1H-imidazol1-yl)-N-(2,2-dimethyl-1(S)-methylcarbamoylpropyl)succinamic acid as a solid, mp 187.0-8.2° C. FABMS: 463.2 (C26H31N4O4 ; M+H+).

reactant | 3(RS)-(3-biphenyl-4-yl-1H-imidazol-1-yl)-N-(2,2-dimethyl-1(S)-methylcarbamoylpropyl)succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(CC(C(=O)N[C@@H](C(C)(C)C)C(NC)=O)N1CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C33H38N4O4
solvent | EtOH | CCO | C2H6O
product | 3(RS)-(3-biphenyl-4-yl-1H-imidazol1-yl)-N-(2,2-dimethyl-1(S)-methylcarbamoylpropyl)succinamic acid | C1(=CC=C(C=C1)N1CN(C=C1)C(CC(=O)O)C(=O)N[C@@H](C(C)(C)C)C(NC)=O)C1=CC=CC=C1 | C26H32N4O4
